US09085540B2
To a mixture of tert-butyl 3-{[5-carbamoyl-3-ethyl-6-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazin-2-yl]amino}azetidine-1-carboxylate (130 mg), and dichloromethane (1 mL) was added trifluoroacetic acid (1 mL) at 0° C., followed by stirring for 2 hours. The solvent was evaporated, and subjected to liquid separation by the addition of chloroform and a saturated aqueous sodium hydrogen carbonate solution. The organic phase was dried over anhydrous magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure. To a mixture of the obtained residue and chloroform (4 mL) were added diisopropylethylamine (140 μL) and acryloyl chloride (40 μL) under ice-cooling, followed by stirring at room temperature for 8 hours. The reactant was subjected to liquid separation by the addition of a saturated aqueous sodium hydrogen carbonate solution. The organic phase was washed with a saturated aqueous sodium hydrogen carbonate solution, and saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=1:0:0-100:10:1) to obtain 5-[(1-acryloylazetidin-3-yl)amino]-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (18 mg).

reactant | tert-butyl 3-{[5-carbamoyl-3-ethyl-6-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazin-2-yl]amino}azetidine-1-carboxylate | 130 mg | C(N)(=O)C=1N=C(C(=NC1NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C)NC1CN(C1)C(=O)OC(C)(C)C)CC | C31H47N9O3
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 5-[(1-acryloylazetidin-3-yl)amino]-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 18 mg | C(C=C)(=O)N1CC(C1)NC=1N=C(C(=NC1CC)C(=O)N)NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C | C29H41N9O2
